US07365066B2
3-{4-[2-(6-Methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinolin-7-yl}-propionic acid methyl ester
Add Pd/C (10%, 0.46 g) to a solution of 3-{4-[2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinolin-7-yl}-acrylic acid methyl ester (0.462 g, 1.1 mmol) in MeOH (10 mL) and dichloromethane (10 mL). Bubble nitrogen for 15 minutes. Connect the hydrogen balloon to the reaction flask and stir overnight. Filter through celite and wash the celite pad with dichloromethane (50 mL). Remove the solvent. Chromatograph the residue (elute with 2% MeOH in dichloromethane) to give the desired product as a pale yellow solid 0.27 g (59%).

reactant | 3-{4-[2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinolin-7-yl}-acrylic acid methyl ester | 1.1 mmol, 0.462 g | COC(C=CC1=CC=C2C(=CC=NC2=C1)C=1C(=NN2C1C=CC=C2)C2=NC(=CC=C2)C)=O | C26H20N4O2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 10 mL | CO | CH4O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | Pd/C | 0.46 g | [Pd] | Pd
product | 3-{4-[2-(6-Methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinolin-7-yl}-propionic acid methyl ester | 0.27 g, 59% | COC(CCC1=CC=C2C(=CC=NC2=C1)C=1C(=NN2C1C=CC=C2)C2=NC(=CC=C2)C)=O | C26H22N4O2
